Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([O:5][H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.56306257169
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]=[C:7]([H:8])[H:9],2.38460114104
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])#[C:6].[H:1][C:2]=[C:3]([H:7])[C:8]([H:9])([H:10])[H:11],6.265477893130001
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][H:5]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.146393769401
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][C:2],10.6125290126
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6])[C:11]([H:12])([H:13])[H:14],3.80363153886
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[H:8].[H:3],3.94896731996
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.23361441302
[C:1]=[C:2]([H:3])[H:4].[O:5][H:6]>>[C:1][C:2]([H:3])([H:4])[O:5][H:6],-2.4921864143900003
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][H:5],2.2506161914900003
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],2.00457594179
[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[H:4].[O:5][O:6][C:7]([H:8])([H:9])[H:10],2.89688860288
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.96739346825
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])[H:16],4.29628727832
[C:5][H:6].[O:1][O:2][C:3](=[C:4])[C:7]([H:8])([H:9])[H:10]>>[O:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-9.60087541185
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]=[C:2]([H:3])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.57203538683
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.70428108429
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11][H:12].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],-1.36444265567
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[H:8]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[H:8],3.94147888227
[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],-1.97664437811
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:12][H:13]>>[H:1][O:2][C:3]([H:4])(/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13],-2.90455793079
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:9][C:10]([H:11])[H:12].[H:8]>>[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12],-1.7627891020900002
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8],1.81081807928
[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.13344712801
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],4.59007906773
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],1.19060519844
[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][H:8]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]#[C:7][H:8],3.73870744262
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:9]([H:10])[H:11].[H:8],4.62972282447
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8],3.6811162076
